US08232284B2
Preparation of N-(5-methylpyrazin-2-yl)-6-{[5-(2-pyrrolidin-1-ylethoxy)pyridin-2-yl]oxy}quinazoline-4-amine
The compound of Example 38 was obtained as follows: Using 4-[(5-methylpyrazin-2-yl)amino]quinazolin-6-ol, 5-(2,2-diethoxyethoxy)-2-fluoropyridine and pyrrolidine, and in the same manner as in Example 31 or according to a method similar to it or according to a combination thereof with an ordinary method, the entitled compound (11 mg) was obtained as a pale yellow solid.

reactant | 4-[(5-methylpyrazin-2-yl)amino]quinazolin-6-ol | CC=1N=CC(=NC1)NC1=NC=NC2=CC=C(C=C12)O | C13H11N5O
reactant | 5-(2,2-diethoxyethoxy)-2-fluoropyridine | C(C)OC(COC=1C=CC(=NC1)F)OCC | C11H16FNO3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | N-(5-methylpyrazin-2-yl)-6-{[5-(2-pyrrolidin-1-ylethoxy)pyridin-2-yl]oxy}quinazoline-4-amine | 11 mg | CC=1N=CC(=NC1)NC1=NC=NC2=CC=C(C=C12)OC1=NC=C(C=C1)OCCN1CCCC1 | C24H25N7O2
